US07419984B2
[6-(5-Chloro-2-methyl-phenyl)-2-methyl-pyrimidin-4-yl]-(4-bromo-phenyl)-amine
Following the method described in Example 38, 4-chloro-6-(5-chloro-2-methyl-phenyl)-2-methyl-pyrimidine and 4-bromoaniline provided the title compound (21% yield). 1H NMR (DMSO-d6) δ 2.48 (s, 3H, CH3), 2.54 (s, 3H, CH3), 6.71 (s, 1H, Ar), 7.36 (d, 1H, J=8.2 Hz, Ar), 7.42 (dd, 1H, J=8.2 Hz, J=2.2 Hz, Ar), 7.47 (d, 1H, J=2.1 Hz, Ar), 7.52 (d, 2H, J=8.8 Hz, Ar), 7.73 (d, 2H, J=8.8 Hz, Ar), 9.72 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-methyl-phenyl)-2-methyl-pyrimidine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)C | C12H10Cl2N2
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | [6-(5-Chloro-2-methyl-phenyl)-2-methyl-pyrimidin-4-yl]-(4-bromo-phenyl)-amine | 21% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)C)NC1=CC=C(C=C1)Br)C | C18H15BrClN3
